US07163947B2
A solution of 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine (1.00 g, 4.13 mmol) in 20 mL of acetonitrile and 5 mL of glacial acetic acid was treated with tert-butyl (3,3-diethoxypropyl)carbamate (2.55 g, 10.3 mmol) and heated to reflux under an atmosphere of nitrogen. After 15 h, the reaction mixture was concentrated under reduced pressure to yield a brown oil. The oil was partitioned between CHCl3 and saturated NaHCO3 solution and the phases were separated. The organic portion was washed with water (2×) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield tert-butyl {3-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)imino]propyl}carbamate (1.64 g) as a dark red/orange oil.

reactant | 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine | 4.13 mmol, 1.00 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N | C13H14N4O
reactant | tert-butyl (3,3-diethoxypropyl)carbamate | 10.3 mmol, 2.55 g | C(C)OC(CCNC(OC(C)(C)C)=O)OCC | C12H25NO4
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | tert-butyl {3-[(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)imino]propyl}carbamate | 1.64 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N=CCCNC(OC(C)(C)C)=O | C21H27N5O3
